US08710046B2
A solution of 2-(4-methoxybenzyl)-7-(quinuclidin-3-ylmethyl)-8,9-dihydro-2H-azepino[5,4,3-cd]indazol-6(7H)-one (219 mg, 0.51 mmol) in trifluoroacetic acid (3 mL) was subjected to microwave irradiation at 130° C. for 18 min. The mixture was diluted with methanol and concentrated in vacuo. The resulting residue was converted to the free base by elution through an SCX-2 cartridge and then purified by column chromatography (silica gel, (12%-100% solvent mixture B in methylene chloride; solvent mixture B=70:27:3 methylene chloride/methanol/concentrated ammonium hydroxide) to afford 7-(quinuclidin-3-ylmethyl)-8,9-dihydro-2H-azepino[5,4,3-cd]indazol-6(7H)-one (140 mg, 88%) as a colorless oil: MS (ESI+) m/z 311 (M+H).

reactant | 2-(4-methoxybenzyl)-7-(quinuclidin-3-ylmethyl)-8,9-dihydro-2H-azepino[5,4,3-cd]indazol-6(7H)-one | 0.51 mmol, 219 mg | COC1=CC=C(CN2N=C3CCC(C4=C3C2=CC=NC4=O)CC4CN2CCC4CC2)C=C1 | C26H30N4O2
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | CO | CH4O
product | 7-(quinuclidin-3-ylmethyl)-8,9-dihydro-2H-azepino[5,4,3-cd]indazol-6(7H)-one | 140 mg, 88% | N12CC(C(CC1)CC2)CC2C1=C3C(NN=C3CC2)=CC=NC1=O | C18H22N4O
